US04977155
7,8-Dihydroxy-1-methyl-1H-1,2,3-triazolo[4,5-f]quinoxaline
A solution of 6,7-diamino-1-methylbenzotriazole (1.63 g, 10 mmol) and oxalic acid dihydrate (2.0 g, 16 mmol) in 50 ml of 4M hydrochloric acid was refluxed on an oil bath for 2 h. The mixture was cooled on ice and the precipitate was collected by filtration, washed with water and ethanol affording 1.94 g (89%) of the title compound: m.p.>300° C.: IR (KBr): 3520-2400, 1700 cm-1 ; 1H-NMR (DMSO-d6): 4.63 (s, 3H, CH3), 6.70 (d, J=9 Hz, 1H; ArH), 7.60 (d, J=9 Hz, 1H, ArH), 11.3 (very broad s, 1H, OH), 12.1 (broad s, 1H, OH).

reactant | 6,7-diamino-1-methylbenzotriazole | 10 mmol, 1.63 g | NC=1C=CC2=C(N(N=N2)C)C1N | C7H9N5
reactant | oxalic acid dihydrate | 16 mmol, 2.0 g | O.O.C(C(=O)O)(=O)O
solvent | hydrochloric acid | 4M, 50 ml | Cl | ClH
product | 7,8-Dihydroxy-1-methyl-1H-1,2,3-triazolo[4,5-f]quinoxaline | OC1=NC2=CC=C3C(=C2N=C1O)N(N=N3)C | C9H7N5O2
